US06696473B2
Preparation of N-{3-[3-Benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]phenyl}-2-dimethylaminoacetamide
To a solution of 2-(3-aminophenylimino)-3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)thiazolidine-4-one (160 mg, 360 μmol) in chloroform (8 mL) was added N,N-dimethylaminoacetyl chloride hydrochloride (90 mg, 0.58 mmol) and TEA (150 μL, 1.1 mmol). The reaction solution was heated at reflux for 20 h, cooled, and concentrated in vacuo. The crude material was chromatographed (silica gel, 0-50% EtOAc/Hex) to give the title compound (34 mg, 18%) as a yellow solid. 1H-NMR (CDCl3): δ 9.03 (1H, s), 7.50 (2H, d), 7.37 (2H, t), 7.17-7.26 (5H, m), 7.11 (1H, m), 7.05 (1H, t), 6.88 (1H, d), 6.68 (1H, d), 5.03 (2H), 3.60 (3H, s), 3.00 (2H, s), 2.28 (6H, s); MS(ESI): 530 (MH+).

reactant | 2-(3-aminophenylimino)-3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)thiazolidine-4-one | 360 μmol, 160 mg | NC=1C=C(C=CC1)N=C1SC(C(N1CC1=CC=CC=C1)=O)=C1SC2=C(N1C)C=CC=C2 | C24H20N4OS2
reactant | N,N-dimethylaminoacetyl chloride hydrochloride | 0.58 mmol, 90 mg | Cl.CN(C)CC(=O)Cl
solvent | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
product | N-{3-[3-Benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]phenyl}-2-dimethylaminoacetamide | 34 mg, 18% | C(C1=CC=CC=C1)N1C(SC(C1=O)=C1SC2=C(N1C)C=CC=C2)=NC=2C=C(C=CC2)NC(CN(C)C)=O | C28H27N5O2S2
